US04742069
Analogously to Example 18, 1.08 g of (S)-1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid (R)-1-phenylethyl ester were treated with 0.08 g of sodium borohydride in a mixture of 10 ml of isopropanol and 2 ml of dimethylformamide. The product was chromatographed with methylene chloride/ethyl acetate (4:1) as the elution agent and then recrystallized from ethanol. There was obtained 0.82 g of (S)-1,4-dihydro-5-[(E)-2-(isopropylsulfamoyl)vinyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid (R)-1-phenylethyl ester in the form of yellow crystals, m.p. 198°-201°, specific rotation: [α]54620 =-290° (c=1.0% w/v, chloroform).

reactant | (S)-1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid (R)-1-phenylethyl ester | 1.08 g | C1(=CC=CC=C1)[C@@H](C)OC(C1=C(NC(=C([C@@H]1C1=CC(=CC=C1)[N+](=O)[O-])C(CS(NC(C)C)(=O)=O)=O)C)C)=O | C27H31N3O7S
reactant | sodium borohydride | 0.08 g | [BH4-].[Na+]
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (S)-1,4-dihydro-5-[(E)-2-(isopropylsulfamoyl)vinyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid (R)-1-phenylethyl ester | 0.82 g | C1(=CC=CC=C1)[C@@H](C)OC(C1=C(NC(=C([C@@H]1C1=CC(=CC=C1)[N+](=O)[O-])\C=C\S(NC(C)C)(=O)=O)C)C)=O | C27H31N3O6S
